US05547967
0.85 g of the product obtained above were reacted with 0.7 g of 3-(5-phenyl-1,2,4-thiadiazole-3-yloxy)-propyl chloride [for preparation, see Example 54 B)] and the reaction mixture was stirred for 10.5 hours at 65° C. Then the reaction mixture was dissolved in dichloromethane and the solution shaken with water. The dichloromethane phase was separated, dried, and concentrated. The crude product obtained was purified by medium-pressure chromatography on fine-grained silica gel (Lichroprep Si 60®) using 9:1 ethyl acetate/methanol as the eluent. 0.5 g of 3-{3-[N-[2-(4-(2-trimethylsilyl)-ethoxymethoxy)-3-methoxyphenyl)-ethyl]-N-methylamino]-propyloxy)-5-phenyl-1,2,4-thiadiazole were obtained as a colorless oil.

reactant | 3-(5-phenyl-1,2,4-thiadiazole-3-yloxy)-propyl chloride | 0.7 g | C1(=CC=CC=C1)C1=NC(=NS1)OCCCCl | C11H11ClN2OS
reactant | water | O | H2O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 5-phenyl-1,2,4-thiadiazole | C1(=CC=CC=C1)C1=NC=NS1 | C8H6N2S
